US04053603
Following the procedure of Example 1, but reacting 1-(2-[2-chloro-propionyl] amino-3,4-dimethoxybenzyl) isoquinoline with n-propylamine, there is obtained 1-(2-[2-n-propylaminoprionyl] amino-3,4-dimethoxybenzyl) isoquinoline.

reactant | 1-(2-[2-chloro-propionyl] amino-3,4-dimethoxybenzyl) isoquinoline | ClC(C(=O)NC1=C(CC2=NC=CC3=CC=CC=C23)C=CC(=C1OC)OC)C | C21H21ClN2O3
reactant | n-propylamine | C(CC)N | C3H9N
product | isoquinoline | C1=NC=CC2=CC=CC=C12 | C9H7N
